US04362728
A mixture of 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-methylthiopyrimidine (2.15 g.), methanol (100 ml.), saturated ethanolic ammonia (10 ml.) and yellow mercuric oxide (4.3 g.) was stirred at room temperature for 2 hours and then filtered. The filtrate was evaporated to dryness and the residue recrystallised from ethanol to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-methylthiopyrimidine (1.5 g.), m.p. 201°-202°.

reactant | 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-methylthiopyrimidine | 2.15 g | FC(CNC(NC1=NC(=NC=C1)SC)=S)(F)F | C8H9F3N4S2
reactant | ammonia | 10 ml | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-methylthiopyrimidine | 1.5 g | FC(CN=C(NC1=NC(=NC=C1)SC)N)(F)F | C8H10F3N5S
